US04060528
A mixture of 30.3 parts of diethyl 2-methyl-2-[p-(2-thenoyl)phenyl]malonate and 200 parts of sodium hydroxide solution 5% is stirred and refluxed for 6 hours. The reaction mixture is allowed to cool while stirring. The whole is filtered and the aqueous phase is separated. The latter is washed with benzene, acidified with concentrated hydrochloric acid solution and stirred for 15 minutes. The product is extracted with chloroform. The extract is washed with water, dried, filtered and evaporated. The oily residue is triturated twice in petroleumether. The solid product is filtered off and crystallized twice from acetonitrile: first at -20° C and then at 0° C, yielding p-(2-thenoyl)hydratropic acid; mp. 124.3° C; also named p-(2-thenoyl)-α-methyl-phenylacetic acid.

reactant | diethyl 2-methyl-2-[p-(2-thenoyl)phenyl]malonate | CC(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)C(C1=CC=CS1)=O | C19H20O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
